US04927941
To 910 mg (3.94 mmol) of 1-(2'-fluoro-3'-acetoxypropyl)-2-nitroimidazole, 6N-HCl was added and stirred overnight at room temperature. The reaction mixture was concentrate and subjected to isolation and purification by silica gel column chromatography to give 280 mg of 1-(2'-fluoro-3'-hydroxypropyl)-2-nitroimidazole.

reactant | 1-(2'-fluoro-3'-acetoxypropyl)-2-nitroimidazole | 3.94 mmol, 910 mg | FC(CN1C(=NC=C1)[N+](=O)[O-])COC(C)=O | C8H10FN3O4
reactant | HCl | Cl | ClH
product | 1-(2'-fluoro-3'-hydroxypropyl)-2-nitroimidazole | 280 mg | FC(CN1C(=NC=C1)[N+](=O)[O-])CO | C6H8FN3O3
